US08003649B2
A stirred solution of 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (0.223 g, 1.0 mmol), 3-(piperidin-4-yl)-1H-indole (0.240 g, 1.20 mmol) and DIPEA (0.257 mL, 1.50 mmol) in DMF (3 mL) was heated at 70° C. for 1 hour. The reaction mixture was run onto an SCX cartridge, which was washed with MeOH and eluted with 2M ammonia in methanol. The crude product was purified by MPLC silica chromatography, eluting with ethyl acetate. Pure fractions were evaporated to a gum which crystallised on trituration with ether to afford 6-[4-(1H-indol-3-yl)piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (0.119 g, 31%) as a colourless crystalline solid.

reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 1.0 mmol, 0.223 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | 3-(piperidin-4-yl)-1H-indole | 1.20 mmol, 0.240 g | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | DIPEA | 1.50 mmol, 0.257 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-[4-(1H-indol-3-yl)piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 0.119 g, 31% | N1C=C(C2=CC=CC=C12)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C19H17F3N6
